US09085576B2
Step 2: Synthesis of 5-chloro-3-methylpicolinic acid
To a solution of 5-chloro-3-methylpicolinonitrile (24.0 g, 157 mmol) in EtOH (100 mL) was added NaOH 5.0N (110 ml, 550 mmol). The resulting mixture was refluxed at 90° C. for 18 h. After cooling to RT, the reaction mixture was concentrated, diluted with water and the pH of the solution was adjusted to 4 by addition of 5N HCl. The solid that precipitated was filtered and set aside. The filtrate was extracted with EtOAc (2×). The aqueous layer was again acidified with 5N HCl to pH 4 and extracted with EtOAc (2×). The EtOAc extracts were combined, dried, and concentrated. The solid obtained from all the workup steps were combined and dried in a high vac oven at 40° C. for 12 h to give the title compound 5-chloro-3-methylpicolinic acid (24.1 g, 140 mmol, 89% yield). LC/MS (ESI+) m/z=172.0 (M+H)+; 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 11.29 (br. s., 1H), 8.41 (d, J=1.76 Hz, 1H), 7.73 (d, J=1.76 Hz, 1H), 2.75 (s, 3H).

reactant | 5-chloro-3-methylpicolinonitrile | 157 mmol, 24.0 g | ClC=1C=C(C(=NC1)C#N)C | C7H5ClN2
reactant | NaOH | 550 mmol, 5.0N, 110 ml | [OH-].[Na+]
reactant | EtOH | 100 mL | CCO | C2H6O
product | 5-chloro-3-methylpicolinic acid | 140 mmol, 24.1 g, 89% yield | ClC=1C=C(C(=NC1)C(=O)O)C | C7H6ClNO2
